US04940710
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-methyl-3-(2-furanyl)-1-piperazinyl]-3-quinolinecarboxylic acid
A mixture of 200 mg of 1-cyclopropyl-6-fluoro-7-[3-(2-furanyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.3 ml of 90% formic acid and 0.24 ml of 37% formalin was heated for 2 hours, then evaporated. The residue was diluted with water, neutralized to pH 7 with 1N sodium hydroxide, the solid collected and washed with water, methanol and ether and dried in vacuo, giving 145 mg of the desired product, mp 122°-124° C.

reactant | 1-cyclopropyl-6-fluoro-7-[3-(2-furanyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 200 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C=1OC=CC1)F)=O)C(=O)O | C21H20FN3O4
reactant | formalin | 0.24 ml | C=O | CH2O
solvent | formic acid | 0.3 ml | C(=O)O | CH2O2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-methyl-3-(2-furanyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 145 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(N(CC1)C)C=1OC=CC1)F)=O)C(=O)O | C22H22FN3O4
